US07592187B2
To a mixture of the 17-allyl-14-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-12-{2-[4-(7-(tert-butyl-dimethyl-silanyloxy-carbonyl)heptanoyl-oxy)-3-methoxy-cyclohexyl]-1-methyl-vinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone prepared in Production Example 1 (44 mg, 0.037 mmol) and acetonitrile (0.88 ml), 46 to 48% aqueous hydrogen fluoride (HF) (0.12 ml) was gently added; this was followed by overnight stirring at room temperature. The reaction product was poured over an ethyl acetate-water mixed liquid and extracted. The organic phase obtained was washed with water and saline, after which it was dried with magnesium sulfate (MgSO4). After the MgSO4 was separated by filtration, concentration under reduced pressure was conducted. The residue thus obtained was purified using a silica gel column (5% methanol (in chloroform)) to yield the desired 17-allyl-1,14-di-hydroxy-12-{2-[4-(7-carboxy-heptanoyl-oxy)-3-methoxy-cyclohexyl]-1-methyl-vinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone (14.2 mg, 40%).

reactant | 17-allyl-14-(tert-butyl-dimethyl-silanyloxy)-1-hydroxy-12-{2-[4-(7-(tert-butyl-dimethyl-silanyloxy-carbonyl)heptanoyl-oxy)-3-methoxy-cyclohexyl]-1-methyl-vinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(CCCCCCC(=O)O[Si](C)(C)C(C)(C)C)=O)OC)C)C)O[Si](C)(C)C(C)(C)C)=O | C64H109NO15Si2
reactant | acetonitrile | 0.88 ml | C(C)#N | C2H3N
reactant | hydrogen fluoride | 0.12 ml | F | FH
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 17-allyl-1,14-di-hydroxy-12-{2-[4-(7-carboxy-heptanoyl-oxy)-3-methoxy-cyclohexyl]-1-methyl-vinyl}-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-aza-tricyclo[22.3.1.04,9]octacos-18-ene-2,3,10,16-tetraone | 14.2 mg, 40% | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC(CCCCCCC(=O)O)=O)OC)C)C)O)=O | C52H81NO15
